US04568682
A 33% (weight/volume) solution of methylamine in ethanol (10.2 cc) is added dropwise, in the course of 5 minutes, to a solution of methyl 2-(pyridin-3-yl)tetrahydrothiopyran-2-carbodithioate 1-oxide (a single stereoisomeric form; 10.2 g) in ethanol (150 cc), kept at between 25° and 30° C. The solution is then stirred for 1 hour and 35 minutes at a temperature of about 22° C. and a further amount of 33% (weight/volume) solution of methylamine in ethanol (1.5 cc) is then added. After it has been stirred for 1 hour at the same temperature, the reaction mixture is concentrated to dryness under reduced pressure (25 mm Hg; 3.4 kPa) at 40° C. The product obtained (9.8 g) is dissolved in acetonitrile (15 cc) at a temperature of about 20° C. and the solution is kept at a temperature of about 5° C. for 1 hour. The resulting crystals are filtered off, washed twice with acetonitrile (10 cc in total) and dried under reduced pressure (25 mm Hg; 3.4 kPa) at 20° C. The product obtained (3.4. g), to which 0.8 g prepared under the same conditions has been added, is dissolved in boiling acetonitrile (80 cc); the solution is treated with decolourising charcoal (0.1 g) and filtered hot and the filtrate is then cooled at a temperature of about 5° C. for 2 hours. The resulting crystals are filtered off, washed twice with acetonitrile (10 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. This gives the A form of N-methyl-2-(pyridin-3-yl)tetrahydrothiopyran-2-carbothioamide 1-oxide (3.3 g) melting at 228° C. [Rf=0.22 (chromatography on a thin layer of silica gel; solvent: ethyl acetate/methanol (80/20 by volume)].

reactant | methylamine | CN | CH5N
reactant | methyl 2-(pyridin-3-yl)tetrahydrothiopyran-2-carbodithioate 1-oxide | N1=CC(=CC=C1)C1(S(CCCC1)=O)C(=S)SC | C12H15NOS3
reactant | charcoal | 0.1 g | C | CH4
solvent | ethanol | 10.2 cc | C(C)O | C2H6O
solvent | ethanol | 150 cc | C(C)O | C2H6O
solvent | ethanol | 1.5 cc | C(C)O | C2H6O
solvent | acetonitrile | 15 cc | C(C)#N | C2H3N
solvent | acetonitrile | 80 cc | C(C)#N | C2H3N
product | N-methyl-2-(pyridin-3-yl)tetrahydrothiopyran-2-carbothioamide 1-oxide | 3.3 g | CNC(=S)C1(S(CCCC1)=O)C=1C=NC=CC1 | C12H16N2OS2
